US06271237B1
To a solution of 2-fluorobenzonitrile (0.605 g, 5 mmol) and 5-furyl-3-trifluoromethyl-3-hydroxypyrazoline (1.1 g, 5 mmol) in DMF (10 mL) was added Cs2CO3 (1.63 g, 5 mmol), and the resulting mixture was stirred at 110° C. for 16 hours. The mixture was diluted with EtOAc, washed with brine (×5), dried over MgSO4, and purified by column chromatography with a gradient solvent (hexane to ethyl acetate) to give 1-(2-cyanophenyl)-5-furyl-3-trifluoromethylpyrazole and 1-(2-cyanophenyl)-3-furyl-5-trifluoromethylpyrazole (1.27 g, 83.8%) in a ratio of 95 to 5. 1H NMR (CDCl3) δ7.82 (dd, J=7.7 Hz, J=1.5 Hz, 1H), 7.77 (dd, J=7.7 Hz, J=1.5 Hz, 1H), 7.66 (td, J=7.7 Hz, J=1.1 Hz, 1H), 7.61 (d, J=7.7 Hz, 1H), 7.39 (d, J=1.4 Hz, 1H), 6.96 (s, 1H), 6.37 (dd, J=3.3 Hz, J=1.4 Hz, 1H), 6.04 (d, J=3.3 Hz, 1H); 19F NMR (CDCl3): δ−62.98; ESMS(+): 304 (M+H, 100).

reactant | 2-fluorobenzonitrile | 5 mmol, 0.605 g | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 5-furyl-3-trifluoromethyl-3-hydroxypyrazoline | 5 mmol, 1.1 g | O1C(=CC=C1)C1CC(NN1)(O)C(F)(F)F | C8H9F3N2O2
reactant | Cs2CO3 | 5 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-cyanophenyl)-5-furyl-3-trifluoromethylpyrazole | C(#N)C1=C(C=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C15H8F3N3O
